US06239151B1
A solution of 0.500 g of 2(R)-[1(RS)-(tert-butoxycarbonyl)-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 10 ml of dimethylformamide was treated with 0.465 g of 3-bromopyridine, 0.297 g of triethylamine, 0.017 g of palladium(II) acetate and 0.045 g of tri-(o-tolyl)phosphine. The mixture was heated at 100° C. for 24 hours. After cooling to room temperature the mixture was diluted with water and extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed with water and brine and then dried over anhydrous magnesium sulphate. Evaporation of the solvents and flash column chromatography of the residue on silica gel using ethyl acetate/hexane gave 0.090 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-(3-pyridyl)-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a yellow oil.

reactant | 2(R)-[1(RS)-(tert-butoxycarbonyl)-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.500 g | C(C)(C)(C)OC(=O)C(CC=C)[C@H](C(=O)NNCC(C)C)CC(C)C | C19H36N2O3
reactant | 3-bromopyridine | 0.465 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | triethylamine | 0.297 g | C(C)N(CC)CC | C6H15N
reactant | tri-(o-tolyl)phosphine | 0.045 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | palladium(II) acetate | 0.017 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-(3-pyridyl)-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.090 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C=1C=NC=CC1)[C@H](C(=O)NNCC(C)C)CC(C)C | C24H39N3O3
